US09145414B2
Reaction solution including a solution of tert-butyl (4-bromothiophen-2-yl)carbamate (5.4 g), bis(pinacolato)diboron (9.86 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1:1; 800 mg), and potassium acetate (3.39 g) in DMF (40 mL) was stirred at 80° C. for 90 minutes. The solvent was evaporated under vacuum, then the reaction solution was diluted with ethyl acetate, and washed successively with water and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain tert-butyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophen-2-yl)carbamate.

reactant | tert-butyl (4-bromothiophen-2-yl)carbamate | 5.4 g | BrC=1C=C(SC1)NC(OC(C)(C)C)=O | C9H12BrNO2S
reactant | bis(pinacolato)diboron | 9.86 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.39 g | C(C)(=O)[O-].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 800 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophen-2-yl)carbamate | C(C)(C)(C)OC(NC=1SC=C(C1)B1OC(C(O1)(C)C)(C)C)=O | C15H24BNO4S
